US05208259
Using a similar procedure to that described in Example 12, 2'-chloro-4'-iodo-2,2,2-trifluoro-N-methylacetanilide was reacted with 4-(3-mercaptophenyl)-4-methoxytetrahydropyran to give 4-[3-(3-chloro-4-(N-methyltrifluoroacetamido)phenylthio)phenyl]-4-methoxytetrahydropyran in 8% yield as a gum.

reactant | 2'-chloro-4'-iodo-2,2,2-trifluoro-N-methylacetanilide | ClC1=C(N(C(C(F)(F)F)=O)C)C=CC(=C1)I | C9H6ClF3INO
reactant | 4-(3-mercaptophenyl)-4-methoxytetrahydropyran | SC=1C=C(C=CC1)C1(CCOCC1)OC | C12H16O2S
product | 4-[3-(3-chloro-4-(N-methyltrifluoroacetamido)phenylthio)phenyl]-4-methoxytetrahydropyran | 8% yield | ClC=1C=C(C=CC1N(C(C(F)(F)F)=O)C)SC=1C=C(C=CC1)C1(CCOCC1)OC | C21H21ClF3NO3S
